US04101662
4-(p-Fluorobenzoyl)-1-[3-(p-fluorobenzoyl)propyl]piperidine Hydrochloride
A mixture of 13.9 g. (0.057 mole) of 4-(p-fluorobenzoyl)piperidine hydrochloride, 15.5 g. (0.063 mole) of 2-(p-fluorophenyl)-2-(ω-chloropropyl)-1,3-dioxolane, and 27.6 g. (0.2 mole) of potassium carbonate in 150 ml. of 1-butanol was refluxed 20 hours. The mixture was filtered, the filtrate concentrated, the oily residue dissolved in 50 ml. of an ether-methanol mixture and this solution stirred with 100 ml. of 3N HCl for one hour. The mixture was cooled, the layers separated, the aqueous layer basified and the basic mixture extracted with ether. The ethereal extracts were dried over anhydrous sodium sulfate, the mixture filtered and the filtrate treated with ethereal hydrogen chloride. The salt, which weighed 17.2 g. (74%), was recrystallized from an isopropanol-methanol mixture. The dried hydrochloride salt melted at 255°-257° C. The free base which was prepared by neutralization of a portion of the hydrochloride salt melted at 133°-135° C.

reactant | 4-(p-fluorobenzoyl)piperidine hydrochloride | 0.057 mole | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | potassium carbonate | 0.2 mole | C([O-])([O-])=O.[K+].[K+]
solvent | 1-butanol | C(CCC)O | C4H10O
product | 4-(p-Fluorobenzoyl)-1-[3-(p-fluorobenzoyl)propyl]piperidine Hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)=O)C=C1 | InChI=1S/C22H23F2NO2.ClH/c23-19-7-3-16(4-8-19)21(26)2-1-13-25-14-11-18(12-15-25)22(27)17-5-9-20(24)10-6-17;/h3-10,18H,1-2,11-15H2;1H
